US09062028B2
Step C. 2-(2,3-Dimethylphenoxy)ethanol
To a solution of ethyl 2-(2,3-dimethylphenoxy)acetate (1.7 g, 8.16 mmol) in THF (50 mL) at 0° C. was added lithium borohydride (2 M in THF, 8.16 mL, 16.33 mmol) dropwise over a period of 10 min. At the conclusion of this period, the reaction mixture was slowly warmed to room temperature where it stirred for 16 h. After this time, the reaction mixture was quenched slowly with saturated NH4Cl, and the organic layer was separated, washed with water and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to afford the title compound (1.06 g, 78% yield). LCMS, [M+H]+=167.0.

reactant | ethyl 2-(2,3-dimethylphenoxy)acetate | 8.16 mmol, 1.7 g | CC1=C(OCC(=O)OCC)C=CC=C1C | C12H16O3
reactant | lithium borohydride | 16.33 mmol, 2 M, 8.16 mL | [BH4-].[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(2,3-Dimethylphenoxy)ethanol | 1.06 g, 78% yield | CC1=C(OCCO)C=CC=C1C | C10H14O2
